data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1564,1730,[CH3:9][NH:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24](=[O:25])[O:26][CH3:27].[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:22]([CH3:23])([C:24](=[O:25])[O:26][CH3:27])[N:20]([CH3:21])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,31.348851105927626,-31.121864086895272
4294,4913,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22]#[N:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]#[N:23],water,298.15,25.302095022593928,-3.2152174271736427
1901,2106,[CH3:15][NH:16][C:17](=[O:18])[N:19]=[NH+:20][N-:21][C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:21]([C:22](=[O:23])[O:24][CH3:25])[NH:20][N:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,47.46968761249239,-14.762508134367534
3571,4069,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][n+:8]1[n:9][o:10][c:11](=[O:12])[c-:13]1-[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]2([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[N:8]([CH3:7])[N:9]1[O:10][C:11]2=[O:12],water,298.15,48.781978020792685,-16.671044456539693
649,709,[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][C-:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[NH:16][C:17]1([C:18]#[N:19])[C:20]([CH3:21])=[O:22],water,298.15,20.239979298484336,-32.830669911703005
3437,3907,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:18]=[N:17][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,30.563115774500268,0.2374449027125732
777,840,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[NH+:14]=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[NH:14][C:15]3([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,23.883411804615086,-33.61580302267857
213,233,[CH3:1][O:2]/[C:3]([F:4])=[C:5](\[F:6])[O:7][CH3:8].[CH3:9][C:10]#[N+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][O:2][C@@:3]1([F:4])[C@:5]([F:6])([O:7][CH3:8])[C:12]([C:13]#[N:14])([C:15](=[O:16])[O:17][CH3:18])[N:11]=[C:10]1[CH3:9],water,298.15,24.451768054231582,-33.467034058036425
3305,3744,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[NH+:14][N-:15][C:16]#[N:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:15]([C:16]#[N:17])[NH:14][C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,31.07987406975517,1.3310449634309471
3687,4208,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([C:14]([CH3:15])=[O:16])[o:17][c:18]1=[O:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]2([C:14]([CH3:15])=[O:16])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:18](=[O:19])[O:17]2,water,298.15,31.159674438326217,9.721102831309697
542,592,[CH3:13][C:14](=[NH+:15][O-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:14]([CH3:13])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:15][O:16]2,water,298.15,27.286805069674287,-4.9027294526844685
3611,4122,[CH2:1]=[CH2:2].[CH3:3][N+:4]([N-:5][C:6]#[N:7])=[C:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH2:1]1[CH2:2][N:5]([C:6]#[N:7])[N:4]([CH3:3])[C:8]1([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,27.245478945471568,-11.01121696294013
752,814,[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]#[N:21])[n+:22]1[CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7](=[O:8])[O:9][CH3:10]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]1([C:20]#[N:21])[N:22]2[CH3:23],water,298.15,19.92733233532332,-16.143625012913134
